US04766127
A mixture of 13.0 g of 2-bromo-6-acetylnaphthalene, 20 g of ethylene glycol, 200 ml of benzene, and 530 mg of p-toluenesulfonic acid was heated at reflux for 18 hours using a Dean-Stark trap to effect continuous removal of water. The cooled reaction mixture was added to 100 ml of 0.1N sodium hydroxide solution and the resulting mixture extracted with three 75 ml portions of diethyl ether. The combined organic extract was washed with 100 ml saturated sodium chloride solution and then dried over sodium sulfate. The solvent is removed under vacuum and the residue recrystallized from hexane to give 12.2 g of 2-bromo-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene, m.p. 80°-82° C.

reactant | 2-bromo-6-acetylnaphthalene | 13.0 g | BrC1=CC2=CC=C(C=C2C=C1)C(C)=O | C12H9BrO
reactant | ethylene glycol | 20 g | C(CO)O | C2H6O2
reactant | sodium hydroxide | 0.1N, 100 ml | [OH-].[Na+]
catalyst | p-toluenesulfonic acid | 530 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-bromo-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene | 12.2 g | BrC1=CC2=CC=C(C=C2C=C1)C1(OCCO1)C | C14H13BrO2
